US07582629B2
2-Butyl-4-[(5-methyl-1-phenyl-1H-pyrazol-3-yl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide
2-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (110 mg, 0.330 mmol) was dissolved in dry DMF (0.5 mL) under nitrogen atmosphere. 5-Methyl-1-phenyl-1H-pyrazol-3-amine (172 mg, 0.991 mmol) was added and the reaction mixture was heated in a microwave reactor for 25 mins at 140° C. The crude product was purified by preparative HPLC affording the title compound (89 mg, 58.6%). 1H NMR (500 MHz, CD3CN): δ 0.99 (t, 3H), 1.42-1.51 (m, 2H), 1.76-1.84 (m, 2H), 2.14 (s, 3H), 3.73 (t, 2H), 5.87 (s, 1H), 6.87-6.90 (m, 2H), 7.27-7.38 (m, 8H), 7.74 (bs, 1H).

reactant | 2-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.330 mmol, 110 mg | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 5-Methyl-1-phenyl-1H-pyrazol-3-amine | 0.991 mmol, 172 mg | CC1=CC(=NN1C1=CC=CC=C1)N | C10H11N3
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-Butyl-4-[(5-methyl-1-phenyl-1H-pyrazol-3-yl)amino]-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 89 mg, 58.6% | C(CCC)N1S(C(=C(C1=O)NC1=NN(C(=C1)C)C1=CC=CC=C1)C1=CC=CC=C1)(=O)=O | C23H24N4O3S
